OpenCircuit factory test: forward_10.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8590905115245568000
* Revision: Rev:1.0
.model OC_HONGJIACHENG_SS24 D(IS=7.4943869469e-4 N=2.1131929804e0 RS=7.7695762258e-3)

.temp 25
Itest 0 anode DC 1.7915500000e-1
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_SS24
.op
.end
